US04443607
4.2 g of 2-(2-aminopropyl)-4-phenyl-1(2H)-isoquinolone, 2.7 g of ethyl chlorocarbonate, 4.1 g of potassium carbonate and 60 ml of ethanol were mixed and stirred at room temperature for 3 hours. The solvent was then distilled off, and the residue was extracted with dichloromethane. The crystals obtained by distilling off the solvent were recrystallized from ethanol to obtain 3 g (57% yield) of 2-(2-ethoxycarbonylaminopropyl)-4-phenyl-1(2H)-isoquinolone having a melting point of 182° C. as colorless prisms.

reactant | 2-(2-aminopropyl)-4-phenyl-1(2H)-isoquinolone | 4.2 g | NC(CN1C(C2=CC=CC=C2C(=C1)C1=CC=CC=C1)=O)C | C18H18N2O
reactant | ethyl chlorocarbonate | 2.7 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | potassium carbonate | 4.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2-(2-ethoxycarbonylaminopropyl)-4-phenyl-1(2H)-isoquinolone | 3 g, 57% yield | C(C)OC(=O)NC(CN1C(C2=CC=CC=C2C(=C1)C1=CC=CC=C1)=O)C | C21H22N2O3
